US07767675B2
Step 4. 2-{2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]phenoxy}propanoic acid
tert-Butyl-2-{2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]phenoxy}propanoate (100 mg, 0.2 mmol) was dissolved in a mixed solvent of methylene chloride (5.0 mL) and trifluoroacetic acid (5.0 mL). The solution was stirred at RT for 2 h. The volatiles were evaporated under reduced pressure. The residue was co-evaporated with toluene three times, and was directly used in next step. LCMS: (M+H)=469. 1.

reactant | tert-Butyl-2-{2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]phenoxy}propanoate | 0.2 mmol, 100 mg | C(C)(C)(C)OC(C(C)OC1=C(C=C(C=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)F)=O | C31H29FN4O3
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-{2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]phenoxy}propanoic acid | FC1=C(OC(C(=O)O)C)C=CC(=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C27H21FN4O3
